US05348961
The whole of the ethyl 2-(3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)-3-ethoxyacrylate [(XVI), R1 =--OCHF2, R3' =NO2, R17 =C2H5, X=X'=F]obtained as described in step (c) above was dissolved in 500 ml of methylene chloride, and 3.5 g (0.06 moles) of cyclopropylamine were added dropwise to the resulting solution, whilst stirring and ice-cooling. The mixture was then stirred for 1 hour, whilst ice-cooling, and then for an additional 1 hour at room temperature, after which the solvent was removed by evaporation under reduced pressure. The resulting residue was subjected to silica gel column chromatography using a 9:1 by volume mixture of toluene and ethyl acetate as the eluent, to give 19.8 g of ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)acrylate as an yellow powder, melting at 105°-106° C.

reactant | ethyl 2-(3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)-3-ethoxyacrylate | FC(OC=1C(=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C1F)F)[N+](=O)[O-])F)F | C15H12F5NO7
reactant | cyclopropylamine | 0.06 moles, 3.5 g | C1(CC1)N | C3H7N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)acrylate | 19.8 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1[N+](=O)[O-])F)F)OC(F)F)F)=O | C16H13F5N2O6
